** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/CDAC+Driver.sch
**.subckt CDAC+Driver vdd clk1,clk2,clk3,clk4,clk5,clk6,clk7 D7,D6,D5,D4,D3,D2,D1 ctop vss
*.ipin D7,D6,D5,D4,D3,D2,D1
*.iopin vdd
*.iopin vss
*.ipin clk1,clk2,clk3,clk4,clk5,clk6,clk7
*.iopin ctop
x1 ctop net9 net10 net1 net8 net6 net4 net11 vss net7 net5 net3 net2 cdac
x2 clk1 D7 net1 vdd vss A_CDAC
x3 clk1 D7 net2 vdd vss B_CDAC
x4 clk2 D6 net4 vdd vss B_CDAC
x5 clk3 D5 net6 vdd vss B_CDAC
x6 clk2 D6 net3 vdd vss A_CDAC
x7 clk3 D5 net5 vdd vss A_CDAC
x8 clk4 D4 net7 vdd vss B_CDAC
x9 clk4 D4 net8 vdd vss A_CDAC
x10 clk7 D1 net9 vdd vss B_CDAC
x11 clk6 D2 net10 vdd vss B_CDAC
x12 clk5 D3 net11 vdd vss B_CDAC
**.ends

* expanding   symbol:  cdac.sym # of pins=13
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/cdac.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/cdac.sch
.subckt cdac ctop b1 b2 b7a b4a b5b b6b b3 vss b4b b5a b6a b7b
*.iopin ctop
*.iopin b1
*.iopin b2
*.iopin b7a
*.iopin b4a
*.iopin b5a
*.iopin b6a
*.iopin b3
*.iopin b5b
*.iopin b4b
*.iopin b6b
*.iopin b7b
*.iopin vss
XC6b ctop b6b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=16 m=16
XC1 ctop b1 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1
XC2 ctop b2 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=2 m=2
XC3b ctop b3 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC4b ctop b4b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC5b ctop b5b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=8 m=8
XC7b ctop b7b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=32 m=32
XCdummy ctop vss sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1
XC7a ctop b7a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=32 m=32
XC5a ctop b5a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=8 m=8
XC4a ctop b4a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC6a ctop b6a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=16 m=16
XCdummy1 ctop ctop sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=68 m=68
.ends


* expanding   symbol:  A_CDAC.sym # of pins=5
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/A_CDAC.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/A_CDAC.sch
.subckt A_CDAC clki data A_out vdd vss
*.ipin data
*.opin A_out
*.iopin vdd
*.iopin vss
*.ipin clki
x1 data clki vss vss vdd vdd A_out sky130_fd_sc_hd__and2b_4
.ends


* expanding   symbol:  B_CDAC.sym # of pins=5
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/B_CDAC.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/B_CDAC.sch
.subckt B_CDAC clki data B_out vdd vss
*.ipin data
*.opin B_out
*.iopin vdd
*.iopin vss
*.ipin clki
x1 clki data vss vss vdd vdd B_out sky130_fd_sc_hd__nand2_4
.ends

.end
