** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/cdac.sch
**.subckt cdac ctop b1 b2 b7a b4a b5b b6b b3 vss b4b b5a b6a b7b
*.iopin ctop
*.iopin b1
*.iopin b2
*.iopin b7a
*.iopin b4a
*.iopin b5a
*.iopin b6a
*.iopin b3
*.iopin b5b
*.iopin b4b
*.iopin b6b
*.iopin b7b
*.iopin vss
XC6b ctop b6b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=16 m=16
XC1 ctop b1 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1
XC2 ctop b2 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=2 m=2
XC3b ctop b3 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC4b ctop b4b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC5b ctop b5b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=8 m=8
XC7b ctop b7b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=32 m=32
XCdummy ctop vss sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1
XC7a ctop b7a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=32 m=32
XC5a ctop b5a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=8 m=8
XC4a ctop b4a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC6a ctop b6a sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=16 m=16
XCdummy1 ctop ctop sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=68 m=68
**.ends
.end
