** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/delay_control.sch
**.subckt delay_control vdd vss valid valid_delayed
*.ipin valid
*.iopin vdd
*.iopin vss
*.opin valid_delayed
x20 valid vss vss vdd vdd delay1 sky130_fd_sc_hd__clkdlybuf4s50_1
x21 delay1 vss vss vdd vdd delay2 sky130_fd_sc_hd__clkdlybuf4s50_1
x22 delay2 vss vss vdd vdd delay3 sky130_fd_sc_hd__clkdlybuf4s50_1
x23 delay3 vss vss vdd vdd delay4 sky130_fd_sc_hd__clkdlybuf4s50_1
x24 delay4 vss vss vdd vdd delay5 sky130_fd_sc_hd__clkdlybuf4s50_1
x25 delay5 vss vss vdd vdd delay6 sky130_fd_sc_hd__clkdlybuf4s50_1
x26 delay6 vss vss vdd vdd valid_delayed sky130_fd_sc_hd__clkdlybuf4s50_1
**.ends
.end
